US08193234B2
N-bromosuccinimide (5.48 g, 30.82 mmol) was added in three portions to a solution of ethyl 2-(1-(4-cyanonaphthalen-1-yl)-1H-imidazol-2-ylthio)acetate (10.40 g, 30.82 mmol) in dichloromethane (150 mL) at 0° C. and then stirred at room temperature for 18 h. The mixture was washed with water (2×50 mL), saturated aqueous sodium chloride solution (50 mL), dried over sodium sulfate, filtered and concentrated. Purification by column chromatography (0-50% EtOAc/hexanes) provided ethyl 2-(5-bromo-1-(4-cyanonaphthalen-1-yl)-1H-imidazol-2-ylthio)acetate as an off-white solid (9.18 g, 71.5%).

reactant | N-bromosuccinimide | 30.82 mmol, 5.48 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl 2-(1-(4-cyanonaphthalen-1-yl)-1H-imidazol-2-ylthio)acetate | 30.82 mmol, 10.40 g | C(#N)C1=CC=C(C2=CC=CC=C12)N1C(=NC=C1)SCC(=O)OCC | C18H15N3O2S
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | ethyl 2-(5-bromo-1-(4-cyanonaphthalen-1-yl)-1H-imidazol-2-ylthio)acetate | 9.18 g, 71.5% | BrC1=CN=C(N1C1=CC=C(C2=CC=CC=C12)C#N)SCC(=O)OCC | C18H14BrN3O2S
